US07691882B2
3-(3-(6-(3-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (4 mL) solution of 3-ethynyl-pyridin-2-ylamine (20 mg, 0.17 mmol) described in Manufacturing Example 1-2-3 and (6-(3-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride (95 mg, 0.34 mmol) described in Manufacturing Example 71-1-4 was added triethylamine (47 μL, 0.34 mmol), which was stirred for 3 hours at 50° C. under nitrogen atmosphere. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the filtrate was purified by NH silica gel column chromatography (ethyl acetate:methanol=20:1) and further purified by reverse-phase high-performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoracetic acid) to obtain the title compound (33 mg, 33%) as a ditrifluoracetic acid salt.

reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2-ylamine | 0.17 mmol, 20 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | (6-(3-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride | 0.34 mmol, 95 mg | FC=1C=C(OC2=CC=C(C=N2)CC(=NO)Cl)C=CC1 | C13H10ClFN2O2
reactant | triethylamine | 0.34 mmol, 47 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(6-(3-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 33 mg, 33% | FC=1C=C(OC2=CC=C(C=N2)CC2=NOC(=C2)C=2C(=NC=CC2)N)C=CC1 | C20H15FN4O2
